US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0696 g, 0.237 mmol) and 2-[(2-bromoethyl)oxy]tetrahydro-2H-pyran (0.080 mL, 0.529 mmol) in 2 CH3CN/3 CHCl3 (5.0 mL) were reacted to give the desired product (0.0348 g, 31.6%). EI-MS m/z 422(M+) Rt (1.85 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.237 mmol, 0.0696 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-[(2-bromoethyl)oxy]tetrahydro-2H-pyran | 0.529 mmol, 0.080 mL | BrCCOC1OCCCC1 | C7H13BrO2
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0348 g, 31.6% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOC2OCCCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C27H36NO3.BrH/c29-27(23-9-3-1-4-10-23,24-11-5-2-6-12-24)26-14-17-28(18-15-26,19-16-26)20-22-31-25-13-7-8-21-30-25;/h1-6,9-12,25,29H,7-8,13-22H2;1H/q+1;/p-1
